US08633182B2
Step 2: (1S,2S)-2-{4-[(R)-5-Cyano-4-(4-hydroxy-2,6-dimethyl-phenyl)-indan-1-yloxy]-phenyl}cyclopropanecarboxylic acid ethyl ester
(1S,2S)-2-(4-{(R)-4-[4-(tert-Butyl-dimethyl-silanyloxy)-2,6-dimethyl-phenyl]-5-cyano-indan-1-yloxy}-phenyl)-cyclopropanecarboxylic acid ethyl ester (500 mg, 0.86 mmol) is dissolved in 10 mL of tetrahydrofuran, a 1 M aqueous solution of tetrabutylammonium fluoride (2 mL, 2.00 mmol) is added and the reaction mixture is stirred at room temperature for 3 h. 2 mL of an ammonium chloride saturated aqueous solution is added and the reaction mixture is concentrated under vacuum. The crude product obtained is purified by flash chromatography (cyclohexane/ethyl acetate 100/01→50/50) to give the title compound (Yield: 310 mg).

reactant | (1S,2S)-2-(4-{(R)-4-[4-(tert-Butyl-dimethyl-silanyloxy)-2,6-dimethyl-phenyl]-5-cyano-indan-1-yloxy}-phenyl)-cyclopropanecarboxylic acid ethyl ester | 0.86 mmol, 500 mg | C(C)OC(=O)[C@@H]1[C@H](C1)C1=CC=C(C=C1)O[C@@H]1CCC2=C(C(=CC=C12)C#N)C1=C(C=C(C=C1C)O[Si](C)(C)C(C)(C)C)C | C36H43NO4Si
reactant | tetrabutylammonium fluoride | 2.00 mmol, 2 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | 2 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (1S,2S)-2-{4-[(R)-5-Cyano-4-(4-hydroxy-2,6-dimethyl-phenyl)-indan-1-yloxy]-phenyl}cyclopropanecarboxylic acid ethyl ester | Yield: 310 mg | C(C)OC(=O)[C@@H]1[C@H](C1)C1=CC=C(C=C1)O[C@@H]1CCC2=C(C(=CC=C12)C#N)C1=C(C=C(C=C1C)O)C | C30H29NO4
